US05284954
Alternate Preparation of Methyl 2-{N-Propyl-N-[(2'-cyanobiphenyl-4-yl)methyl]amino}pyridine-3-carboxylate
Propyl amine (110 g, 0.3407 mol), triethyl amine (194 ml, 140.8 g, 1.39 moles) and methyl 2-chloronicotinate-HCl (84.6 g, 0.408 mol) were dissolved in toluene (380 ml) contained in a 1 liter 3 neck roundbottom flask stirred with a mechanical stirrer and equipped with nitrogen. The mixture was heated to 105° C. for 60 hours. After cooling to room temperature, ethyl acetate (500 ml) and sodium bicarbonate (5% aq., 500 ml) was added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×200 ml). The combined organic layers were washed with water (500 ml). The organic solution was concentrated under reduced pressure to give a dark viscous oil. This oil was dissolved in pyridine (300 ml, 3.71 mol) and the solution was placed in a 1 liter 3 neck roundbottom flask equipped with a magnetic stirrer. Then phosphorous oxychloride (68 ml, 0.73 mol) was added. The mixture was heated to 75° C. for about 3 hours. After cooling to 5° C., the mixture was carefully diluted with ethyl acetate (500 ml). Sodium hydroxide (1N in water, 120 ml) was then slowly added. The organic layer was separated. The aqueous layer was extracted with ethyl acetate (2×300 ml). The organic layers were combined and washed with sodium hydroxide (1N in water, 2×50 ml) and water (100 ml). Concentration under vacuum, followed by concentration from toluene solution (2×150 ml), gave a dark brown oil. This oil was dissolved in methanol (330 ml) and activated charcoal (5 g) was added. The mixture was heated to reflux for 15 minutes and filtered hot through Celite. The filtrate was cooled to room temperature and stirred for 24 hours. The resulting solid was filtered, washed with methanol and dried under vacuum to give the desired product as an off-white solid.

reactant | Propyl amine | 0.3407 mol, 110 g | C(CC)N | C3H9N
reactant | triethyl amine | 1.39 moles, 194 ml, 140.8 g | C(C)N(CC)CC | C6H15N
reactant | methyl 2-chloronicotinate-HCl | 0.408 mol, 84.6 g | Cl.ClC1=C(C(=O)OC)C=CC=N1
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
reactant | pyridine | 3.71 mol, 300 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorous oxychloride | 0.73 mol, 68 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Sodium hydroxide | 1N, 120 ml | [OH-].[Na+]
reactant | charcoal | 5 g | C | CH4
reactant | toluene | 380 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 330 ml | CO | CH4O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-{N-Propyl-N-[(2'-cyanobiphenyl-4-yl)methyl]amino}pyridine-3-carboxylate | C(CC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C1=NC=CC=C1C(=O)OC | C24H23N3O2
